US07700633B2
To a 1.0M solution of LiAlH4 (22 mL) in THF at 0° C. is added dropwise a solution of 4-(benzyloxy)-2-hydroxybenzoic acid methyl ester (2.84 g, 11 mmol) in THF (15 mL). The mixture is stirred for 2 h, then quenched by the careful addition of 1 mL of saturated Na2SO4 solution. The mixture is warmed to ambient temperature and extracted with Et2O. The organic layer is washed with water, sat. NaCl and dried over sodium sulfate. The solvent is removed under reduced pressure to afford 5-benzyloxy-2-hydroxymethylphenol as a white solid: 1H NMR (DMSO-d6) δ 9.28 (s, 1H), 7.42-7.31 (m, 5H), 7.11 (d, J=8.34 Hz, 1H), 6.44-6.40 (m, 2H), 5.01 (s, 2H), 4.75-4.72 (m, 1H), 4.38 (d, J=5.56 Hz, 2H); (M−H)−=229.

reactant | LiAlH4 | 22 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 4-(benzyloxy)-2-hydroxybenzoic acid methyl ester | 11 mmol, 2.84 g | COC(C1=C(C=C(C=C1)OCC1=CC=CC=C1)O)=O | C15H14O4
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 5-benzyloxy-2-hydroxymethylphenol | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)O)CO | C14H14O3
